US07008950B1
2-Methyl-1-[4-(4-morpholinyl)phenyl)propan-1-one
n-Butyllithium (1.6 M, 25.8 mL, 41.3 mmol) was added to a solution of 1-bromo-4-(4-morpholinyl)benzene (10.0 g, 41.3 mmol) in tetrahydrofuran (100 mL) at −78° C., and the mixture was stirred for 20 minutes at the same temperature. To the reaction mixture was added N-isobutyrylpropyleneimine (5.77 g, 45.4 mmol), and the mixture was stirred for 30 minutes at room temperature. Water (40 mL) was poured into the reaction mixture, which was then extracted twice with ethyl acetate. The organic layers were combined, washed with water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was crystallized from hexane to obtain the title compound (6.50 g, yield 67%).

reactant | n-Butyllithium | 41.3 mmol, 1.6 M, 25.8 mL | C(CCC)[Li]
reactant | 1-bromo-4-(4-morpholinyl)benzene | 41.3 mmol, 10.0 g | BrC1=CC=C(C=C1)N1CCOCC1 | C10H12BrNO
reactant | Water | 40 mL | O | H2O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-Methyl-1-[4-(4-morpholinyl)phenyl)propan-1-one | 6.50 g, yield 67% | CC(C(=O)C1=CC=C(C=C1)N1CCOCC1)C | C14H19NO2
